US09382226B2
Step C. 5-Bromo-1-methyl-2-(pyridin-3-yl)-1H-benzimidazole-6-carbonitrile
To solution of 4-amino-2-bromo-5-(methylamino)benzonitrile (0.2 g, 0.0008 mol) and nicotinaldehyde (0.094 g, 0.0008 mol) in DMF (5 ml) and H2O (2 ml) was added OXONE® monopersulphate (0.43 g, 0.0007 mol). Reaction mass was stirred at room temperature for 3 h. The reaction mixture was quenched with 10% K2CO3 solution to PH˜8-10 and extracted with EtOAc (3×20 ml). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under vacuum to afford the crude compound, which was purified by column chromatography to obtain title compound 5-bromo-1-methyl-2-(pyridin-3-yl)-1H-benzimidazole-6-carbonitrile. (3971H NMR (400 MHz, DMSO-d6), δ: 9.08 (s, 1H), 8.80-8.79 (d, J=4 Hz, 1H), 8.53 (s, 1H), 8.34-8.32 (d, J=7.2 Hz, 1H), 8.23 (s, 1H), 7.67-7.63 (m, 1H), 3.96 (s, 3H). MS (M+1): 313.12, Purity 93.84%.

reactant | 4-amino-2-bromo-5-(methylamino)benzonitrile | 0.0008 mol, 0.2 g | NC1=CC(=C(C#N)C=C1NC)Br | C8H8BrN3
reactant | nicotinaldehyde | 0.0008 mol, 0.094 g | C(C1=CN=CC=C1)=O | C6H5NO
reactant | OXONE | OOS(=O)[O-].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | H2O | 2 ml | O | H2O
product | 5-bromo-1-methyl-2-(pyridin-3-yl)-1H-benzimidazole-6-carbonitrile | BrC1=CC2=C(N(C(=N2)C=2C=NC=CC2)C)C=C1C#N | C14H9BrN4
